US07759373B2
A mixture of 2-azido-1-(3-pyridyl)-1-butanone (18.60 g), di-t-butyldicarbonate (23.50 g) and 10% palladium-carbon (2.70 g) in methanol (200 ml) was stirred under hydrogen atmosphere at room temperature for one hour. After removing the palladium-carbon by filtration, the solvent was removed under reduced pressure and the residue was purified by silica gel flush column chromatography (solvent: hexane:ethyl acetate=2:14→1:1) to obtain 2-(t-butoxycarbonylamino)-1-(3-pyridyl)-1-butanone (20.53 g) as yellowish red oil.

reactant | 2-azido-1-(3-pyridyl)-1-butanone | 18.60 g | N(=[N+]=[N-])C(C(=O)C=1C=NC=CC1)CC | C9H10N4O
reactant | di-t-butyldicarbonate | 23.50 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium-carbon | 2.70 g | [C].[Pd]
product | 2-(t-butoxycarbonylamino)-1-(3-pyridyl)-1-butanone | 20.53 g | C(C)(C)(C)OC(=O)NC(C(=O)C=1C=NC=CC1)CC | C14H20N2O3
